US07109186B2
Compound 872: 4-Hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (4-fluoro-benzyl)-(3-morpholin-4-yl-propoxy)-amide
Reaction of 2-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-(3-morpholin-4-yl-propoxy)-acetamide (0.080 g, 0.18 mmol) with the paraformaldehyde-methylamine adduct in methanol using a procedure similar to the one described in the preparation of compound 44 method 44B) gave 0.027 g (35% yield) of the title compound as a white solid after chromatography on reversed phase silica gel. 1HNMR 400 MHz (DMSO-d6) δ (ppm); 1.61 (2H, m, CH2), 2.23 (2H, t, J=7.0 Hz, NCH2), 2.28 (4H, broad, 2×NCH2), 2.93 (3H, s, NCH3), 3.54 (4H, broad, 2×OCH2), 3.76 (2H, broad t, OCH2), 3.97 (2H, s, NCH2), 4.88 (2H, s, NCH2), 7.13 (2H, m, aromatics), 7.40 (2H, m, aromatics). HRMS (MAB N2) calculated for C20H26FN3O5: [M]+: 407.185650. found: 407.184331.

reactant | 2-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-(3-morpholin-4-yl-propoxy)-acetamide | 0.18 mmol, 0.080 g | CC1(OC(C(O1)=CC(=O)N(OCCCN1CCOCC1)CC1=CC=C(C=C1)F)=O)C | C21H27FN2O6
reactant | paraformaldehyde methylamine | C=O.CN
reactant | methanol | CO | CH4O
product | 4-Hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (4-fluoro-benzyl)-(3-morpholin-4-yl-propoxy)-amide | 0.027 g, 35% yield | FC1=CC=C(CN(C(=O)C=2CN(C(C2O)=O)C)OCCCN2CCOCC2)C=C1 | C20H26FN3O5
